US04678826
N-Phenyl-3-[(N,N-diethylamino)oxy]pyrrolidine-2,5-dione
The procedure of Example 1 is repeated using 4.46 g (50 mmole) of N,N-diethylhydroxylamine and 8.66 g (50 mmole) of N-phenylmaleimide.

reactant | N,N-diethylhydroxylamine | 50 mmole, 4.46 g | C(C)N(O)CC | C4H11NO
reactant | N-phenylmaleimide | 50 mmole, 8.66 g | C1(=CC=CC=C1)N1C(C=CC1=O)=O | C10H7NO2
product | N-Phenyl-3-[(N,N-diethylamino)oxy]pyrrolidine-2,5-dione | C1(=CC=CC=C1)N1C(C(CC1=O)ON(CC)CC)=O | C14H18N2O3
